US07728026B2
2-amino-5-chloro-3-nitrobenzamide
2-Amino-3-nitrobenzamide (4.0 g) in warm anhydrous acetonitrile (1.25 L) was treated with N-chlorosuccinimide (3.1 g) at 60° C. under nitrogen for 20 hours. The mixture was allowed to cool to room temperature and filtered. The filter cake was washed with acetonitrile and dried to provide the title compound (3.98 g, 84%). MS (DCI/NH3) m/z 216 (M+H)+.

reactant | 2-Amino-3-nitrobenzamide | 4.0 g | NC1=C(C(=O)N)C=CC=C1[N+](=O)[O-] | C7H7N3O3
reactant | N-chlorosuccinimide | 3.1 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 1.25 L | C(C)#N | C2H3N
product | 2-amino-5-chloro-3-nitrobenzamide | 3.98 g, 84% | NC1=C(C(=O)N)C=C(C=C1[N+](=O)[O-])Cl | C7H6ClN3O3
